US08283353B2
6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(tetrahydrospiro[cyclohexane-1,2′-furo[3,4-d][1,3]dioxol]-4-yl)[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (0.30 g), tetrahydrofuran-3,4-diol (0.11 g), 4-methylbenzenesulfonic acid (0.011 g) and toluene (20 mL) was heated under reflux for 6 hr using a Dean-Stark trap. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography and recrystallized (ethyl acetate-hexane) to give the title compound as a colorless solid (0.23 g, 68%).

reactant | 4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.30 g | O=C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C29H28N6O4
reactant | tetrahydrofuran-3,4-diol | 0.11 g | O1CC(C(C1)O)O | C4H8O3
reactant | 4-methylbenzenesulfonic acid | 0.011 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(tetrahydrospiro[cyclohexane-1,2′-furo[3,4-d][1,3]dioxol]-4-yl)[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.23 g, 68% | O=C1NC(=NO1)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)C2CCC1(OC3C(O1)COC3)CC2)=O | C33H34N6O6
